US08236792B2
Step B: (2R,4R)-1-[2-([1,4]Diazepane-1-carbonyl)-4-hydroxy-pyrrolidin-1-yl]-ethanone.
A mixture of (1R,4R)-5-acetyl-2-oxa-5-aza-bicyclo[2.2.1]heptan-3-one (310.3 g, 2.0 mol) and [1,4]diazepane (500.85 g, 5 mol) in t-amyl alcohol (3.0 L) was held at 90° C. for 17 h. The mixture was then concentrated to remove t-amyl alcohol (2.4 L). The resulting slurry was filtered and washed with EtOAc (1 L) to provide the title compound as a solid (367 g, 72%). MS (ESI): mass calcd. for C12H21N3O3, 255.2; m/z found, 256.2 [M+H]+. 1H NMR (CDCl3): 5.95 (br s, 1H), 4.93-4.68 (m, 1H), 4.48-4.32 (m, 1H), 3.90-3.65 (m, 5H), 3.54-3.41 (m, 1H), 3.12-2.74 (m, 4H), 2.32-2.22 (m, 1H), 2.16-1.68 (m, 6H).

reactant | (1R,4R)-5-acetyl-2-oxa-5-aza-bicyclo[2.2.1]heptan-3-one | 2.0 mol, 310.3 g | C(C)(=O)N1[C@H]2C(O[C@@H](C1)C2)=O | C7H9NO3
reactant | [1,4]diazepane | 5 mol, 500.85 g | N1CCNCCC1 | C5H12N2
solvent | t-amyl alcohol | 3.0 L | C(C)(C)(CC)O | C5H12O
product | (2R,4R)-1-[2-([1,4]Diazepane-1-carbonyl)-4-hydroxy-pyrrolidin-1-yl]-ethanone | 367 g, 72% | N1(CCNCCC1)C(=O)[C@@H]1N(C[C@@H](C1)O)C(C)=O | C12H21N3O3
